US08431575B2
To a stirred solution of (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (0.46 mmol, 0.25 g) in anhydrous DMF (1.5 mL) was added sodium hydride (60% dispersion in mineral oil) (0.92 mmol, 0.037 g) and continued stirring for 15 min. The reaction mixture was cooled to 0° C. using an ice bath. To this was added methyl iodide (0.57 mmol, 0.035 mL) and the reaction was stirred for 12 hours coming to room temperature. The reaction was poured into a mixture of water (5 mL) and ethyl acetate (5 mL). The mixture was shaken and separated. The ethyl acetate layer was washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on 24 g SiO2 cartridge using a gradient of ethyl acetate/hexanes to give (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-3-methoxy-piperidine-1-carboxylic acid tert-butyl ester (0.20 g).

reactant | (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.46 mmol, 0.25 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)O | C31H45N3O5
reactant | sodium hydride | 0.92 mmol, 0.037 g | [H-].[Na+]
reactant | methyl iodide | 0.57 mmol, 0.035 mL | CI | CH3I
reactant | water | 5 mL | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-3-methoxy-piperidine-1-carboxylic acid tert-butyl ester | 0.20 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)OC | C32H47N3O5
